US05624935
5-[4-(1-Methyl-7-azaindol-2-ylmethoxy)benzyl]-3-triphenylmethylthiazolidine-2,4 dione.
A solution of 103 mg of 2-hydroxymethyl-1-methyl-7-azaindole (prepared as described in Preparation 81), 346 mg of 5-(4-hydroxybenzyl)-3-triphenylmethylthiazolidine-2,4-dione, 166 mg of diethyl azodicarboxylate and 250 mg of triphenylphosphine in 3 ml of tetrahydrofuran was stirred at room temperature for 15 hours. At the end of this time, the reaction mixture was freed from the solvent by distillation. The resulting residue was purified by column chromatography through silica gel, using a gradient elution method, with mixtures of hexane and ethyl acetate in ratios ranging from 5:1 to 4:1 by volume as the eluent, to give 277 mg of the title compound having Rf=0.41 (on silica gel thin layer chromatography using a 1:1 by volume mixture of hexane and ethyl acetate as the developing solvent).

reactant | 2-hydroxymethyl-1-methyl-7-azaindole | 103 mg | OCC=1N(C2=NC=CC=C2C1)C | C9H10N2O
reactant | 5-(4-hydroxybenzyl)-3-triphenylmethylthiazolidine-2,4-dione | 346 mg | OC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C29H23NO3S
reactant | diethyl azodicarboxylate | 166 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 250 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 5-[4-(1-Methyl-7-azaindol-2-ylmethoxy)benzyl]-3-triphenylmethylthiazolidine-2,4 dione | 277 mg | CN1C(=CC2=CC=CN=C12)COC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C38H31N3O3S
